US05045541
To 50 ml of methanol is added 9 g of 9-fluoro-2-(4-hydroxyphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one, and 1.7 g of sodium hydroxide dissolved in 70 ml of methanol is added to the mixture under stirring at room temperature. Thereto is added 13 g of epichlorohydrin, and the mixture is heated under reflux for 2 hours. After the reaction mixture is filtered, the filtrate is concentrated under reduced pressure and the residue is extracted with chloroform. The extract is washed with water and dried over anhydrous magnesium sulfate. Thereafter, the solvent is distilled off to give 12.5 g of a brown oily substance. This oily substance is subjected to column chromatography. Isopropyl ether is added to the resulting crystals, and the crystals are collected by filtration to give 4 g of 2-[4-(2,3-epoxypropoxy)phenyl]-9-fluoro-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one as white crystals, m.p. 128°-130° C.

reactant | 9-fluoro-2-(4-hydroxyphenyl)-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | 9 g | FC1=CC2=C(CCC3CC(N(N=C23)C2=CC=C(C=C2)O)=O)C=C1 | C18H15FN2O2
reactant | sodium hydroxide | 1.7 g | [OH-].[Na+]
reactant | epichlorohydrin | 13 g | C(Cl)C1CO1 | C3H5ClO
reactant | Isopropyl ether | C(C)(C)OC(C)C | C6H14O
solvent | methanol | 70 ml | CO | CH4O
solvent | methanol | 50 ml | CO | CH4O
product | 2-[4-(2,3-epoxypropoxy)phenyl]-9-fluoro-4,4a,5,6-tetrahydrobenzo[h]cinnolin-3(2H)-one | 4 g | O1C(COC2=CC=C(C=C2)N2N=C3C4=C(CCC3CC2=O)C=CC(=C4)F)C1 | C21H19FN2O3
